Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR/hematochezia/rectal pain
 
Major Surgical or Invasive Procedure:
Flex Sig ___

 
History of Present Illness:
 Mr. ___ (goes by ___ is a ___ y/o M w/ UC and
PSC on vedolizumab every 8 weeks who presents with 5 days of
worsening rectal pain and BRBPR. Says that He has had increasing
frequency of BMs at home, now happening every hour and mostly
consisting of blood.  BMs are associated with severe spasms and
pressure in the rectum, which induces nausea without vomiting.
Says this is very typical for flares of his UC in the past. He
came to the hospital once he felt like it wasn't going to 
resolve
on its own. He does not appreciate a clear trigger to this 
flare.
Denies any recent personal illness or any known sick contacts. 
Says flares are usually managed with steroids and an all-liquid
diet that is advanced as tolerated.  He denies associated 
fevers,
chills, HA, sore throat, cough, CP, SOB, DOE, dysuria, skin
rashes/lesions/changes, joint pain/swelling, or any other new
concerns.

ROS: 10 systems reviewed and negative except as noted in HPI
above. 
 
Past Medical History:
# Ulcerative Colitis
# PSC
# Anemia
# Iron deficiency
# Anxiety

 
Social History:
___
Family History:
Denies any family hx of IBD. Has one sibling, a sister who is
healthy.

 
Physical Exam:
Admission Physical Exam:
VS: 24 HR Data (last updated ___ @ 957)
    Temp: 98.5 (Tm 98.5), BP: 109/61, HR: 66, RR: 18, O2 sat:
95%, O2 delivery: RA, Wt: 150.0 lb/68.04 kg
Gen: NAD, well appearing laying in bed
HEENT: EOMI, anicteric sclera, slightly dry MM, +apthous ulcer 
on
posterior right hard palate, none others visualized, tongue
appears normal
Neck:  no cervical or supraclavicular LAD
Chest: CTAB, normal WOB
Cardiovasc: RR, S1 S2 present, no m/r/g appreciated
Abd: soft, not distended, bowel sounds present in all quadrants,
is not tender to moderate palpation throughout
GU: no suprapubic fullness or tenderness to palpation, no CVA
tenderness
MSK: grossly normal strength in b/l arms & legs
Skin: no jaundice, has erythematous changes to the skin over his
upper anterior chest in pattern that looks like it could have
been from clothing which he reports is "not a rash" (unclear
chronicity); has multiple tattoos; has left nipple piercing with
hardware in place; otherwise no large rashes, lesions, or ulcers
appreciated
Neuro: AAOx4, conversant w/ clear speech, normal coordination, 
no
tremor at rest or with intention
Psych: calm, cooperative, pleasant

Discharge Physical Exam
98.3 PO 107 / 56 51 18 96 RA 
Gen: NAD, well appearing laying in bed
HEENT: EOMI, anicteric sclera, MMM
Chest: CTAB, normal WOB
Cardiovasc: RR, S1 S2 present, no m/r/g appreciated
Abd: soft, not distended, bowel sounds present in all quadrants,
is not tender to moderate palpation throughout
Skin: no jaundice, multiple tattoos; has left nipple piercing
with hardware in place; otherwise no large rashes, lesions, or
ulcers appreciated
Neuro: AAOx4, conversant w/ clear speech, normal coordination, 
no
tremor at rest or with intention
Psych: calm, cooperative, pleasant
 
Pertinent Results:
Admission Labs: 
___ 06:38AM BLOOD WBC-8.8 RBC-4.66 Hgb-12.1* Hct-38.3* 
MCV-82 MCH-26.0 MCHC-31.6* RDW-14.9 RDWSD-43.8 Plt ___
___ 06:38AM BLOOD Neuts-59.8 ___ Monos-9.2 Eos-6.6 
Baso-0.5 Im ___ AbsNeut-5.26 AbsLymp-2.08 AbsMono-0.81* 
AbsEos-0.58* AbsBaso-0.04
___ 06:38AM BLOOD Glucose-96 UreaN-17 Creat-0.8 Na-139 
K-4.3 Cl-100 HCO3-24 AnGap-15
___ 06:38AM BLOOD ALT-45* AST-24 AlkPhos-294* TotBili-0.2
___ 06:38AM BLOOD Albumin-4.2
___ 06:38AM BLOOD CRP-19.9*

IMAGING/PROCEDURES: 
Flex Sig: Marked erythema, friability and ulceration in the 
descending sigmoid 

DISCHARGE LABS: 

___ 07:10AM BLOOD WBC-10.2* RBC-4.49* Hgb-11.7* Hct-37.3* 
MCV-83 MCH-26.1 MCHC-31.4* RDW-14.9 RDWSD-45.1 Plt ___
___ 06:00AM BLOOD Glucose-86 UreaN-14 Creat-0.7 Na-141 
K-4.5 Cl-103 HCO3-29 AnGap-9*
___ 06:00AM BLOOD ALT-17 AST-10 AlkPhos-176* TotBili-<0.___ y/o M w/ UC and PSC on vedolizumab every 8 weeks, last dose 
___, who presented with 5 days of worsening rectal pain and 
BRBPR associated with nausea,
typical of a UC flare. 

# Hematochezia / BRBPR
# Rectal pain
# Ulcerative colitis
Likely represents UC flare. Typical presentation for him. No 
triggers identified by patient. No signs/symptoms of systemic 
infection.  He is nearing the end of the 8 weeks since his last 
dose of vedolizumab. S/p flex sig on ___ with significant 
ulcerations and erythema in the colon consistent with UC. He was 
seen by GI and infectious evaluation (including c.diff PCR) was 
negative and he was started on IV solumedrol. He was continued 
on solumedrol until ___ when he was trasitioned to PO 
prednisone as his BMs no longer were bloody and were starting to 
form. Plan for a outpatient prednisone taper (start at 40mg PO 
daily x5 days then decrease every 5 days by 10mg) with follow up 
with Dr ___ GI provider, and Dr ___ colorectal 
surgery.  

# PSC
# Transaminitis: mild ALT and Alk Phos elevations. ALT resolved 
and Alk phos trending down. No signs/symptoms to suggest 
cholangitis. Continued home ursodiol and will follow up with GI 
as an outpatient. 

# Anemia: mild, microcytic (MCV 82)
# Iron deficiency: per his report; hasn't been taking oral iron 
recently. Restarted on discharge. 

# Anxiety
-Continued home fluoxetine

# PREP
-continued home Truvada daily

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. vedolizumab 300 mg injection EVERY 8 WEEKS 
2. Ursodiol 300 mg PO TID 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. FLUoxetine 40 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Metamucil (psyllium husk) 0.4 gram oral DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY 
40mg x5days then
30mg x5days then
20mg x5days then
10mg x5days  
Tapered dose - DOWN 
RX *prednisone 10 mg 4 tablet(s) by mouth once a day Disp #*50 
Tablet Refills:*0 
2.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
3.  Ferrous Sulfate 325 mg PO DAILY  
4.  FLUoxetine 40 mg PO DAILY  
5.  Metamucil (psyllium husk) 0.4 gram oral DAILY  
6.  Ursodiol 300 mg PO TID  
7.  vedolizumab 300 mg injection EVERY 8 WEEKS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute flare ulcerative colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

It was a pleasure taking care of you while you were in the 
hospital. You were admitted with a flare of your ulcerative 
colitis. You had a flex sigmoidoscopy that confirmed this. You 
were treated with IV steroids and improved enough to be placed 
on oral steroids and will taper as an outpatient and follow up 
with your PCP and outpatient GI provider. 

Please take your medications as instructed and follow up as 
noted below. 
 
Followup Instructions:
___